US05175301
2-Chloro-5-methylaminopyridine
To 5.0 g (0.039 mole) of 5-amino-2-chloropyridine was added 40 ml of ethyl orthoformate and the mixture was refluxed for 5 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in 50 ml of EtOH. After addition of 1.8 g of sodium borohydride, the mixture was stirred at 70°-80° C. for 3 hours. The reaction mixture was concentrated and after addition of 50 ml of iced water and 5 ml of concentrated hydrochloric acid, the mixture was adjusted to pH 7-8 with NaHCO3 and extracted with AcOEt (50 ml×3). The AcOEt layers were pooled, washed with water and dried over MgSO4. The AcOEt was distilled off and hexane was added to the crystalline residue. The crystals are collected by filtration, washed with hexane and dried to give 5.1 g of the title compound as white crystals.

reactant | 5-amino-2-chloropyridine | 0.039 mole, 5.0 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | ethyl orthoformate | 40 ml | C(OCC)([O-])[O-]
product | 2-Chloro-5-methylaminopyridine | 5.1 g | ClC1=NC=C(C=C1)NC | C6H7ClN2
